US07589206B2
(e) 7-Chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide
To a solution of 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (110 mg) in dimethylformamide (4 ml) was added 4-ethylmorpholine (187 μl), tetrahydro-pyran-4-ylmethylamine (97 mg), 1-hydroxybenzotriazole hydrate (118 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (129 mg) and the solution stirred at room temperature overnight. The dimethylformamide was evaporated and the residue dissolved in ethyl acetate (10 ml). The organic layer was then washed with 5% sodium hydrogen carbonate solution (4 ml) and brine (4 ml). The organic layer was dried (MgSO4) and evaporated to give a pale orange solid. The solid was triturated with diethyl ether and then filtered off, sucked dry then dried at 40° C. under vacuum to afford the title compound (93 mg).

reactant | 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid | 110 mg | ClC1=NC=C(C2=C1NC=C2)C(=O)O | C8H5ClN2O2
reactant | 4-ethylmorpholine | 187 μl | C(C)N1CCOCC1 | C6H13NO
reactant | tetrahydro-pyran-4-ylmethylamine | 97 mg | O1CCC(CC1)CN | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 118 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 129 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide | 93 mg | O1CCC(CC1)CNC(=O)C=1C2=C(C(=NC1)Cl)NC=C2 | C14H16ClN3O2
